simulator lang=spectre
global 0

ahdl_include "./dut/first_order_lowpass.va"

Vin (vin 0) vsource type=pwl wave=[0 0 18n 0 18.4n 0.8 160n 0.8]
XDUT (vin vout) first_order_lowpass

simulatorOptions options evas_profile=balanced

tran tran stop=160n maxstep=500p
save vin vout
